US07504408B2
N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-[3-(dimethylamino)propoxy]-6-methoxyquinazolin-4-amine
N-[5-Chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine (200 mg, 0.40 mmol) and dimethylamine (5 ml of a 33% solution in ethanol) were stirred and heated under reflux at 90° for 30 min. before evaporating the solution. A further 5 ml of dimethylamine solution were added to the residue and the solution heated for a further 90 min. then evaporated. Again a further 5 ml of dimethylamine solution were added to the residue and the solution heated for 1 hr. before quenching in water and extracting with dichloromethane. The extract was washed with saturated brine, dried over magnesium sulphate and evaporated to an orange oil. It was then purified by column chromatography on silica using increasing concentrations of methanolic ammonia in dichloromethane as eluent. There was thus obtained the title compound (156 mg, 77%) as a pale orange solid; NMR Spectrum:(DMSOd6) 1.95 (quintet, 2H), 2.17 (s, 6H), 2.38 (t, 2H), 2.71 (t, 2H), 3.30 (s, 3H), 3.52 (t, 2H), 3.92 (s, 3H), 4.17 (t, 2H), 6.14 (s, 2H), 7.07 (s, 1H), 7.17 (s, 1H), 7.81 (s, 1H), 8.31 (s, 1H), 9.50 (s, 1H); Mass Spectrum: M+H+ 513/515.

reactant | N-[5-Chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine | 0.40 mmol, 200 mg | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCCl | C24H23Cl2N3O5
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-[3-(dimethylamino)propoxy]-6-methoxyquinazolin-4-amine | 156 mg, 77% | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN(C)C | C26H29ClN4O5
